US07902373B2
Step A: Methyl 6-(5-fluoro-2-hydroxyphenyl)nicotinate
To a degassed mixture of 1,4-dioxane:water (4:1, 15 mls) was added (5-fluoro-2-hydroxyphenyl)boronic acid (0.781 g, 5.0 mmol), methyl 6-chloronicotinate (0.86 g, 5.0 mmol), potassium carbonate (2.08 g, 15.0 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.29 g, 0.05 mmol) and the resulting mixture stirred at 80° C. for 2 h. After this time additional tetrakis(triphenylphosphine)palladium(0) (0.29 g, 0.05 mmol) was added and then heating continued at 80° C. for 3 h. The mixture was then stirred at room temperature overnight. The solvent was evaporated in vacuo and the residue suspended in ethyl acetate (50 ml). The suspension was filtered through a plug of arbocel and the filtrate concentrated in vacuo. The resulting residue was dissolved in ethyl acetate (100 ml) and washed with saturated aqueous sodium carbonate (3×100 ml). The aqueous washings were combined and extracted with ethyl acetate (3×50 ml). The ethyl acetate layers were combined, dried with anhydrous MgSO4 and concentrated in vacuo to afford a solid which was recrystallised from dichloromethane/heptane to afford the title compound as a yellow solid (0.71 g) (57%). 1H NMR (400 MHz, CDCl3) □ ppm 9.14 (1H, s), 8.46-8.40 (1H, m), 7.91-7.86 (1H, m) 7.53-7.46 (1H, m), 7.11-7.03 (1H, m), 7.02-6.96 (1H, m), 3.99 (3H, s). LRMS: AP m/z 248 [M+H]+.

reactant | (5-fluoro-2-hydroxyphenyl)boronic acid | 5.0 mmol, 0.781 g | FC=1C=CC(=C(C1)B(O)O)O | C6H6BFO3
reactant | methyl 6-chloronicotinate | 5.0 mmol, 0.86 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
reactant | potassium carbonate | 15.0 mmol, 2.08 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 0.29 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 0.29 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane water | 15 mls | O1CCOCC1.O
product | Methyl 6-(5-fluoro-2-hydroxyphenyl)nicotinate | 0.71 g, 57% | FC=1C=CC(=C(C1)C1=NC=C(C(=O)OC)C=C1)O | C13H10FNO3
